US07534797B2
Cyclobutanecarboxylic acid (5-oxo-4,5-dihydro-[1,2,4]triazin-6-ylmethyl)-amide
To a solution of 6-aminomethyl-4H-[1,2,4]triazin-5-one (500 mg, 3.96 mmol) and N,N-diisopropylethylamine (DIEA) (0.829 mL, 4.76 mmol) in anhydrous N,N-dimethylforamide (DMF) (20 mL) and anhydrous pyridine (2 mL) was dropwise charged with cyclobutanecarbonyl chloride (0.451 mL, 3.96 mmol) at 0° C. then warmed to rt and stirred for an additional 1.5 h. The reaction mixture was quenched with H2O (2 mL) and concentrated in vacuo and was purified by chromatography on silica gel [eluting with 5% MeOH in DCM (200 mL)→10% MeOH in DCM (800 mL)], affording the title compound; 1H NMR (DMSO-d6, 400 MHz) δ 1.7-1.82 (m, 1H), 1.70-1.92 (m, 1H); 1.97-2.07 (m, 2H); 2.07-2.19 (m, 2H); 3.55-3.67 (m, 1H); 4.19 (d, 2H); 7.97 (brt, J=5.6 Hz, 1H); 8.67 (s, 1H); MS (ES+): m/z 209.25 (100) [MH+], HPLC: tR=1.56 min (MicromassZQ, polar—5 min).

reactant | 6-aminomethyl-4H-[1,2,4]triazin-5-one | 3.96 mmol, 500 mg | NCC=1C(NC=NN1)=O | C4H6N4O
reactant | N,N-diisopropylethylamine | 4.76 mmol, 0.829 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclobutanecarbonyl chloride | 3.96 mmol, 0.451 mL | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | N,N-dimethylforamide | 20 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | Cyclobutanecarboxylic acid (5-oxo-4,5-dihydro-[1,2,4]triazin-6-ylmethyl)-amide | O=C1NC=NN=C1CNC(=O)C1CCC1 | C9H12N4O2
